US08604029B2
6M potassium hydroxide solution (10 mL, 60 mmol) was added to an ice-cooled solution of tetrahydropyran-4,4-dicarboxylic acid diethyl ester (5 g, 21.7 mmol) in ethanol (40 mL) and heated at reflux for overnight. The volatiles were evaporated, the residue diluted with water and acidified with conc. hydrochloric acid. The mixture was allowed to stand overnight then extracted with ether (3×25 mL). The combined ether layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford tetrahydro-pyran-4,4-dicarboxylic acid (2.3 g, 61%) as a white solid.

reactant | potassium hydroxide | 60 mmol, 6M, 10 mL | [OH-].[K+]
reactant | tetrahydropyran-4,4-dicarboxylic acid diethyl ester | 21.7 mmol, 5 g | C(C)OC(=O)C1(CCOCC1)C(=O)OCC | C11H18O5
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | tetrahydro-pyran-4,4-dicarboxylic acid | 2.3 g, 61% | O1CCC(CC1)(C(=O)O)C(=O)O | C7H10O5
